US09216975B2
To a suspension of NaH 60% (0.09 g, 3.97 mmol) in DMF (20 mL) at 0° C. was added in one portion 1H-imidazole (2.5 mol eq, 0.61 g). After 10 min 2-chloro-4-(trifluoromethyl)-benzonitrile (0.5 mL, 3.61 mmol) was added and the reaction mixture was heated at 100° C. for 2 h. The reaction was cooled at room temperature, water was added and the aqueous solution was extracted with EtOAc (3×25 mL). The recombined organic phases were dried over sodium sulfate and evaporated to dryness to give the 2-imidazol-1-yl-4-(trifluoromethyl)benzonitrile as pale yellow oil (0.63 g, 73% Yield) used for the reduction without further purification.

reactant | NaH | 3.97 mmol, 0.09 g | [H-].[Na+]
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
reactant | 2-chloro-4-(trifluoromethyl)-benzonitrile | 3.61 mmol, 0.5 mL | ClC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3ClF3N
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-imidazol-1-yl-4-(trifluoromethyl)benzonitrile | 0.63 g, 73% Yield | N1(C=NC=C1)C1=C(C#N)C=CC(=C1)C(F)(F)F | C11H6F3N3
